US05262387
11. N-isopropylpyridine-2,3-dicarboximide-1-oxide
79.7 g of 55% strength 3-chloroperbenzoic acid are added to 22 g of N-isopropylpyridine-2,3-dicarboximide in 100 ml of methylene chloride in the course of 2 hours while refluxing and stirring, and stirring is continued for a further 2 hours. The reaction mixture is extracted three times with 10% strength sodium carbonate solution and then with water and saturated sodium chloride solution, dried, and evaporated down under reduced pressure. The residue is stirred with methyl tert-butyl ether, 11.2 g of the title compound of melting point 138°-142° C. being obtained.

reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-isopropylpyridine-2,3-dicarboximide | 22 g | C(C)(C)N1C(=O)C2=NC=CC=C2C1=O | C10H10N2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-isopropylpyridine-2,3-dicarboximide-1-oxide | C(C)(C)N1C(=O)C2=[N+](C=CC=C2C1=O)[O-] | C10H10N2O3
